US04780528
(A) α-L-Aspartyl-D-serine isopropyl ester
This compound was prepared from 1.8 g D-serine isopropyl ester hydrochloride and 3.6 g Z-Asp(OBzl) in a manner similar to Example 11 (A). Yield: 1.7 g.

reactant | D-serine isopropyl ester hydrochloride | 1.8 g | Cl.C(C)(C)OC([C@H](N)CO)=O
reactant | Z-Asp(OBzl) | 3.6 g | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H19NO6
product | α-L-Aspartyl-D-serine isopropyl ester | C(C)(C)OC([C@H](NC([C@@H](N)CC(O)=O)=O)CO)=O | C10H18N2O6
